US07417169B2
Ethyl(4-bromo-2,6-dimethylphenoxy)acetate
Ethyl bromoacetate (0.662 mL) was added to a mixture of 4-bromo-2,6-dimethylphenol (1.0 g) and potassium acetate (1.031 g) in N,N-dimethylformamide (10 mL), and the mixture was stirred at 80° C. for 3 hrs. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/10) to afford the title compound (1.29 g).

reactant | Ethyl bromoacetate | 0.662 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 4-bromo-2,6-dimethylphenol | 1.0 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | potassium acetate | 1.031 g | C(C)(=O)[O-].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl(4-bromo-2,6-dimethylphenoxy)acetate | 1.29 g | C(C)OC(COC1=C(C=C(C=C1C)Br)C)=O | C12H15BrO3
